US07294635B2
To a solution of 2-isopropyl-phenylamine (262 mg, 1.94 mmol) and sodium acetate (159 mg, 1.94 mmol) in 5 mL acetic acid, was added iodide monochloride (409 mg, 2.58 mmol) at room temperature. The mixture was stirred at room temperature for 20 minutes, then diluted with ethyl acetate and washed with saturated sodium bicarbonate. The organic layers were combined and concentrated in vacuo to give a crude residue, which was purified by column chromatography (silica 5-25% EtOAc/hexane) to give 4-iodo-2-isopropyl-phenylamine.

reactant | 2-isopropyl-phenylamine | 1.94 mmol, 262 mg | C(C)(C)C1=C(C=CC=C1)N | C9H13N
reactant | sodium acetate | 1.94 mmol, 159 mg | C(C)(=O)[O-].[Na+]
reactant | iodide monochloride | 2.58 mmol, 409 mg | [Cl-].[I-]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-iodo-2-isopropyl-phenylamine | IC1=CC(=C(C=C1)N)C(C)C | C9H12IN
